US08202865B2
Step 1: methyl 2-fluoro-4-[5-(2′-methyl-2-{[(methylsulfonyl)oxy]methyl}biphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzoate
At 0° C., into a solution of methyl 2-fluoro-4-{5-[2-(hydroxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoate, prepared as in example 58, step 1, (500 mg; 1.19 mmol) in DCM (15 mL) was added DIEA (610 μL; 3.58 mmol) and methanesulfonyl chloride (139 μL; 1.79 mmol). The reaction was allowed to warm to RT for 2 h30. Water (5 mL) was added and the DCM extract was rapidly washed twice more with water. The organic layer was then dried over magnesium sulfate, filtered and concentrated to afford the title compound as a yellow foam (573 mg; 97%). 1H NMR (DMSO-d6, 300 MHz) δ 8.47 (d, J=1.8 Hz, 1H), 8.30 (dd, J=8.0, 1.8 Hz, 1H), 8.18-8.13 (m, 1H), 8.09 (dd, J=8.1, 1.5 Hz, 1H), 8.02 (dd, J=11.2, 1.4 Hz, 1H), 7.54 (d, J=8.0 Hz, 1H), 7.40-7.29 (m, 3H), 7.19 (d, J=7.0 Hz, 1H), 5.11 (d, J=11.4 Hz, 1H), 5.05 (d, J=11.4 Hz, 1H), 3.92 (s, 3H), 3.04 (s, 3H), 2.05 (s, 3H). LC/MS (Method B): 497.3 (M+H)+. HPLC (Method A) Rt 5.52 min (Purity: 96.7%).

reactant | methyl 2-fluoro-4-{5-[2-(hydroxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoate | FC1=C(C(=O)OC)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)CO | C24H19FN2O4
reactant | DIEA | 3.58 mmol, 610 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 1.79 mmol, 139 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 5 mL | O | H2O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-fluoro-4-[5-(2′-methyl-2-{[(methylsulfonyl)oxy]methyl}biphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzoate | 573 mg, 97% | FC1=C(C(=O)OC)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COS(=O)(=O)C | C25H21FN2O6S
